US05763450
A solution of the corresponding Grignard compound is prepared from 16.8 g 4-bromo-N,N-dimethyl-aniline and 2.04 g of magnesium in 150 ml of tetrahydrofuran. This is now slowly added dropwise while stirring at -60° to a solution of 9.4 ml of trimethylborate in 50 ml of tetrahydrofuran under argon. Subsequently, the mixture is stirred at room temperature overnight. The mixture is poured on to ice-water, adjusted to pH 3-4 with dilute sulphuric acid and extracted with diethyl ether. The extract is dried, evaporated and the residue is recrystallized from water. 5.6 g (40%) of 4-dimethylamino-phenylboric acid are obtained. Mass spectrum: peaks inter alia at m/e: 164 (M±H, 100%).

reactant | 4-bromo-N,N-dimethyl-aniline | 16.8 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | magnesium | 2.04 g | [Mg] | Mg
reactant | trimethylborate | 9.4 ml | COB(OC)OC | C3H9BO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-dimethylamino-phenylboric acid | 5.6 g, 40% | CN(C1=CC=C(C=C1)OB(O)O)C | C8H12BNO3
